US07396847B2
1-[3-(4-Bromo-phenyl)-4,5-dihydro-isoxazol-5-ylmethyl]-1H-[1,2,3]triazole
5-Azidomethyl-3-(4-bromo-phenyl)-4,5-dihydro-isoxazol (12.3 g, 43.6 mmol) and bicyclo[2.2.1]hepta-2,5-diene (23.6 ml, 218.1 mmol) were added to dioxane (200 ml), heated to 100° C. and stirred for six hours. The reaction mixture was concentrated in vacuo followed by addition of ethyl ether (200 ml). The precipitate was collected and washed with ethyl ether (3×20 ml) and dried under nitrogen to give the desired product (8.8 g).

reactant | 5-Azidomethyl-3-(4-bromo-phenyl)-4,5-dihydro-isoxazol | 43.6 mmol, 12.3 g | N(=[N+]=[N-])CC1CC(=NO1)C1=CC=C(C=C1)Br | C10H9BrN4O
reactant | bicyclo[2.2.1]hepta-2,5-diene | 218.1 mmol, 23.6 ml | C12C=CC(C=C1)C2 | C7H8
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | 1-[3-(4-Bromo-phenyl)-4,5-dihydro-isoxazol-5-ylmethyl]-1H-[1,2,3]triazole | 8.8 g | BrC1=CC=C(C=C1)C1=NOC(C1)CN1N=NC=C1 | C12H11BrN4O
